US09371321B2
Step C: tert-Butyl ((1S)-1-(6-(3-(1,3-dioxoisoindolin-2-yl)pyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate
A mixture of tert-butyl ((1S)-1-(6-(3-hydroxypyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate (250 mg, 0.694 mmol), isoindoline-1,3-dione (153 mg, 1.04 mmol) and PPh3 (328 g, 1.25 mmol) in THF (2 mL) was stirred at 0° C. Next, diethyl azodicarboxylate (217 mg, 1.25 mmol) was added dropwise at 0° C. and the mixture was stirred at 20° C. for 16 hours. The solvent was evaporated in vacuo, and the residue was purified by preparative TLC to give the title compound as a white solid (200 mg, 42.3%). ESI-MS m/z [M+H]+ calc'd for C22H31N5O4, 490. found 490.

reactant | tert-butyl ((1S)-1-(6-(3-hydroxypyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate | 0.694 mmol, 250 mg | OC1CN(CC1)C=1C=C2C(=NC1[C@H](C)NC(OC(C)(C)C)=O)C=CN2C | C19H28N4O3
reactant | isoindoline-1,3-dione | 1.04 mmol, 153 mg | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | PPh3 | 1.25 mmol, 328 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 1.25 mmol, 217 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-Butyl ((1S)-1-(6-(3-(1,3-dioxoisoindolin-2-yl)pyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate | 200 mg, 42.3% | O=C1N(C(C2=CC=CC=C12)=O)C1CN(CC1)C=1C=C2C(=NC1[C@H](C)NC(OC(C)(C)C)=O)C=CN2C | C27H31N5O4
